2114-12-26 07:41:00 Physician Attending Progress Note
Chief Complaint: 49 yo woman with history of hepatitis C complicated by
   cirrhosis, active alcohol abuse with history of alcohol withdrawal
   seizures, chronic pancreatitis transferred from [**Hospital 3296**] Hospital
   [**2114-12-25**] with hepatic failure and hypotension.
   HPI:
   24 Hour Events:
   -received 7L crystalloid total and initiated on levophed for blood
   pressure support
   -seen by liver consult in ED
   -received po vitamin K
   -discriminate function was 71 so started on prednisone 40mg daily for
   alcoholic hepatitis
   Allergies:
   Librium (Oral) (Chlordiazepoxide Hcl)
   Confusion/Delir
   Erythromycin Base
   Hives;
   Vasotec (Oral) (Enalapril Maleate)
   hypertension;
   Last dose of Antibiotics:
   Ceftriaxone
   levaquin
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2114-12-26**] 06:00 AM
   Other medications:
   Protonix
   Folic acid and thiamine
   Lactulose 30mg QID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-26**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 97 (92 - 97) bpm
   BP: 112/78(86) {90/52(62) - 115/78(86)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
             6,973 mL
   PO:
             200 mL
   TF:
   IVF:
   773 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    130 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,843 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular:RRR,PMI Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: crackles at both bases posteriorly
   Abdominal: Soft, Non-tender
   Extremities: no peripheral edema.  Slightly cool to touch.
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands.  Alert and oriented x3.
   Labs / Radiology
   11.1 g/dL
   238 K/uL
   176 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.2 mEq/L
   5 mg/dL
   99 mEq/L
   129 mEq/L
   35.2 %
   17.7 K/uL
        [image002.jpg]
   From WBC 9.2
   From Cr 0.6   TB 16.3 to 19.8  AST/ALT 195/45 to 103/39
   FeNa 0.4%
                            [**2114-12-26**]  06:01 AM
   WBC
   17.7
   Hct
   35.2
   Plt
   238
   Cr
   0.9
   Glucose
   176
   Other labs: PT / PTT / INR:23.7/46.6/2.3, ALT / AST:39/103, Alk Phos /
   T Bili:113/19.8, Albumin:1.9 g/dL, Ca++:6.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.6 mg/dL    lactate 2.2 at midnight   serum etoh: negative  serum
   acetaminophen negative
   RUQ US: cirrhotic liver, difficult to assess portal vein, ascites noted
   CT abdomen with contrast: no portal vein thrombosis with hypodensities
   in the liver consistent with perfusion defect or mass effect
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   -only potential source at this point is pneumonia
   -titrating down on levophed
   -if off levophed by noon will hold on placing a-line
   -concern for septic shock but no clear source, no evidence of SBP
   -does not appear fluid responsive at this point.  If we need to do
   further volume challenge would use 5% albumin
   -will check bladder pressure
 ACUTE LIVER FAILURE
   -will ask liver consult team to make some recommendations
   -followup AFP, lesions on liver can be concerning for hepatocellular
   carcinoma
   -continue prednisone for presumed alcoholic hepatitis
   -trend lactate
   -for elevated INR will continue oral vitamin K 10mg for total of 3 days
   -continue lactulose for encephalopathy
acute renal failure with low FeNa
   -will ask renal consult to see given potential for hepatorenal syndrome
   vs contrast induced nephropathy
   -will likely need 5% albumin challenge to determine
hypoxemia now resolved
   -will check CT chest without contrast to evaluate for ovine bronchus
   and possible obstruction
   ICU Care
   Nutrition: npo for now
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2114-12-26**] 02:00 AM
   Multi Lumen - [**2114-12-26**] 02:32 AM femoral.  If not off pressors within
   24 hours will need to place IJ or subclavian TLC
   Prophylaxis:
   DVT: heparin SQ to be initiated
   Stress ulcer: IV pantoprazole
   VAP: NA
   Comments:
   Communication:  Comments:
   Code status: Full code.  Will need to clarify with her family.
   Disposition : MICU
   Total time spent: 60 min

2114-12-27 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MELD 27
   - Liver consult: stop prednisone, albumin challenge, NGT with TFs,
   check AFP, GGT, IGG, [**Last Name (un) 5861**], hep C viral load
   - CT chest: volume overload, intraperitoneal hemorrhage likely from
   paracentesis
   - Bladder pressure 17
   - levophed weaned
   - had hct drop 35 -> 27.8 -> 26.5. Got 5mg vit K.
   - Son [**Name (NI) 4857**] takes care of [**Known firstname 845**] [**Known lastname 11267**] for the past 6 months or so
   given worsening mental status.  He noticed that she was drinking 1
   liter of vodka per day.  He forced her to stop and then after that she
   was drinking 3-4 beers per day.  She had a male friend that would
   provide her with klonopin 2mg pills (5 pills at a time).  She was only
   drinking beer and taking klonopin but not eating any other food or
   leaving her bed.  The son then left for two days after getting into a
   fight with his mother's male friend for one day and then his mother's
   friend stated that she was becoming more jaundice and was brought to
   the hospital.
   -per son the only medication is metformin
   -per son she is currently full code but will come in for a meeting w/
   the medical team tomorrow [**12-27**].  He also requests if she improves that
   she has a prolonged 3 month inpt stay somewhere to prevent her from
   drinking ETOH.
   -SW consult ordered- son would like to talk to SW when he comes in
   tomorrow.
   -[**Known firstname 11268**] friend is "[**Name2 (NI) **]" and we should not provide him w/ any medical
   information.  If [**Doctor Last Name **] comes to see him we should have security search
   him for substances prior to his visit.
   History obtained from Patient, Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Librium (Oral) (Chlordiazepoxide Hcl)
   Confusion/Delir
   Erythromycin Base
   Hives;
   Vasotec (Oral) (Enalapril Maleate)
   hypertension;
   Last dose of Antibiotics:
   Ceftriaxone - [**2114-12-27**] 12:05 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2114-12-27**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-27**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 93 (90 - 101) bpm
   BP: 97/58(68) {82/15(40) - 112/76(85)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  8,915 mL
                                                                    165 mL
   PO:
                                                                    200 mL
   TF:
   IVF:
                                                                  1,715 mL
                                                                    165 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    439 mL
                                                                    330 mL
   Urine:
                                                                    409 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,476 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   GENERAL:  NAD, AOx2
   HEENT: MM slightly dry, JVP 9cm
   CARDIAC:  RRR, SEM at the USB
   LUNG:  ronchi of R lower and middle lung fields
   ABDOMEN:  soft, obese, NT, ND, no masses, ascites
   EXT: WWP, no c/c/e
   NEURO:  asterixis, mild confusion and somnolence
   DERM:  jaundice, icterus
   Labs / Radiology
   127 K/uL
   8.7 g/dL
   182 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.4 mEq/L
   7 mg/dL
   101 mEq/L
   134 mEq/L
   26.3 %
   10.6 K/uL
        [image002.jpg]
                            [**2114-12-26**]  06:01 AM
                            [**2114-12-26**]  05:20 PM
                            [**2114-12-26**]  10:08 PM
                            [**2114-12-27**]  02:21 AM
                            [**2114-12-27**]  04:15 AM
   WBC
   17.7
   10.6
   Hct
   35.2
   27.8
   26.5
   28.0
   26.3
   Plt
   238
   127
   Cr
   0.9
   1.0
   1.0
   Glucose
   176
   182
   Other labs: PT / PTT / INR:28.0/51.1/2.7, ALT / AST:34/83, Alk Phos / T
   Bili:82/27.5, Amylase / Lipase:14/26, Lactic Acid:2.6 mmol/L,
   Albumin:2.6 g/dL, LDH:231 IU/L, Ca++:7.8 mg/dL, Mg++:2.6 mg/dL, PO4:3.2
   mg/dL
   [**12-26**] Blood culture x 2 Pending
   Peritoneal fluid [**12-26**] pending (GS negative)
   HCV viral load pending
   Assessment and Plan
   49 yoF w/ a h/o hep C and ETOH related cirrhosis presents from [**Hospital 3296**]
   hospital with acute hepatic failure.
   # Acute hepatic failure: the patient has a history of cirrhosis (ETOH
   and hep C) and has had an acute decompensation.  Likely related to
   alcoholic hepatitis.
   -per liver consult have sent hep C viral load and have stopped steroids
   -paracentesis negative for SBP
   -AFP normal, GGT 83, IgG, [**Last Name (un) 5861**] P
   -trend LFTs- bili and INR increasing
   -d/w family (Son [**Doctor Last Name 4857**] today at 1 p.m. w/ social work
   -lactulose- titrate to 3 BMs daily, no BMs- will start lactulose enema
   and give 10mg PO dulcolax- if MS does not improve despite BMs w/
   lactulose will start rifaximin
   -will obtain OSH previous EGD / [**Last Name (un) 236**] if any
   # Hallucinations: Visual hallucinations this morning. New since
   yesterday. ? Benzo related but also could be encephalopathy.
   - Increase lactulose
   - Hold Benzos for now and see if MS improves
   # ETOH abuse: thiamine, folate, MVI daily
   -CIWA scale but hold benzos for right now
   - D/c thiamine after today
   # Anemia: bleeding likely into intraperitoneal space.  Guaiac negative.
   INR worsening so will check DIC labs
   -guaiac stools
   -type and screen.
   - IV Vitamin K since did not respond to po vitamin K
   -transfuse for hct < 21, and transfuse w/ Lasix when necessary
   -Q8. hct, DIC labs
   # Hypotension: at this point seems to be related to possible infectious
   cause but more likely to significant end stage liver disease.  Off
   pressors since 3:30 a.m. [**12-27**].
   -MAP goal > 55
   -were treating pneumonia mainly on the basis of radiographic findings,
   but given new CT findings w/o any infiltrate and only volume overload
   can stop antibiotics at this point.  WBC normal, patient is afebrile
   and without cough.
   # ARF: FeNa < 1%.  Cr has stabilized, ddx includes pre-renal azotemia
   that has now started to improve, heptorenal (although Cr not above 1.5
   and pt does have other reason to have renal failure such as shock, also
   has seemed to respond to albumin challenge).  Contrast nepropathy
   (although worsening renal function occurred too early for this) or ATN
   as pts w/ hepatic disease can have FeNa < 1%.  At this point will avoid
   further volume depletion, monitor urine output.
   -given additional 50g of albumin this a.m.
   -avoid volume depletion
   -d/w hepatology any further treatment such as octreotide/midodrine, at
   this point may not be useful given stabilization of cr
   # Hyponatremia: Imprved with volume so likely due to intravascular
   depletion prior to admission.
   -improved and will continue to trend lytes daily
   # Hypoxia:  92% on 4L NC, likely related to volume overload.  At this
   point will tolerate hypoxia related to volume overload, will be able to
   diurese when creatinine has fully stabilized.  When diuresing will
   likely need to use albumin to help avoid further renal hypoperfusion.
   -IS for atelectasis
   # DM: Insulin sliding scale.
   # FEN: calorie counts, allow pt to have regular diet, nutrition consult
   as pt likely will need dobhoff for feeding
   # PPX: PPI, INR elevated, bowel regimen
   # ACCESS: PIV
   # CODE:
   # CONTACT:  [**Name (NI) 4857**] (son) [**Telephone/Fax (5) 11269**] (this
   is [**Doctor Last Name 11270**] younger brother, if patient dies do not call the younger
   brother, [**Name (NI) 4857**] would like to be notified first so he can tell his
   younger brother).
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-12-26**] 02:00 AM
   Multi Lumen - [**2114-12-26**] 02:32 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2114-12-27 09:59:00 Physician Attending Progress Note
Chief Complaint: Liver failure
   HPI:
   Please see admission note for full details.  49F w/HCV and cirrhosis
   admitted with worsening confusion and hepatic insufficiency.
   24 Hour Events:
   - MELD 27
   - Stopped steroids
   - Chest CT obtained for evaluation of R-sided infiltrates
   - Concern for IP hemorrhage
   - Weaned off pressors
   Allergies:
   Librium - Confusion/Delir
   Erythromycin Base - Hives;
   Vasotec - HTN
   Last dose of Antibiotics:
   Ceftriaxone - [**2114-12-27**] 12:05 AM
   Levofloxacin
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2114-12-27**] 07:50 AM
   Pantoprazole (Protonix) - [**2114-12-27**] 07:55 AM
   Other medications:
   MVI, folate, thiamine, lactulose, RISS
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-27**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 97 (90 - 101) bpm
   BP: 96/64(72) {82/15(40) - 107/69(78)} mmHg
   RR: 24 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  8,915 mL
                                                                    195 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  1,715 mL
                                                                    195 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    439 mL
                                                                    431 mL
   Urine:
                                                                    409 mL
                                                                    431 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,476 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Sallow, ill-appearing obese F, laying in bed
   Eyes / Conjunctiva: Scleral icterus
   Head, Ears, Nose, Throat: MMM, sublingual icterus, oropharynx clear
   Cardiovascular:  RRR, S1, S2
   Extremities/Peripheral Vascular: Warm, diffusely edematous, palpable
   radial, DPs bilat
   Respiratory / Chest: bilateral crackles over the lower half of lung
   fields bilat
   Skin:  Sallow, no rashes
   Neurologic: A&Ox2, repeatedly stating that her son is hiding in the
   room
   [**Name (NI) 503**] / Radiology
   8.7 g/dL
   127 K/uL
   182 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.4 mEq/L
   7 mg/dL
   101 mEq/L
   134 mEq/L
   26.3 %
   10.6 K/uL
        [image002.jpg]
                            [**2114-12-26**]  06:01 AM
                            [**2114-12-26**]  05:20 PM
                            [**2114-12-26**]  10:08 PM
                            [**2114-12-27**]  02:21 AM
                            [**2114-12-27**]  04:15 AM
   WBC
   17.7
   10.6
   Hct
   35.2
   27.8
   26.5
   28.0
   26.3
   Plt
   238
   127
   Cr
   0.9
   1.0
   1.0
   Glucose
   176
   182
   Other [**Year (4 digits) **]: PT / PTT / INR:28.0/51.1/2.7, ALT / AST:34/83, Alk Phos / T
   Bili:82/27.5, Amylase / Lipase:14/26, Lactic Acid:2.6 mmol/L,
   Albumin:2.6 g/dL, LDH:272 IU/L, Ca++:7.8 mg/dL, Mg++:2.6 mg/dL, PO4:3.2
   mg/dL
   Blood cultures and peritoneal fluid cultures
 NGTD
   Chest CT
 Reviewed - Peribronchial edema, thickening, GGOs, trace
   bilateral effusions, ascites, pancreatic calcifiations
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 acutely decompensated
   - Increase lactulose as not stooling
   - Stopped steroids per hepatology
   - Will discuss prognosis given not a transplant candidate with son
   - On thiamine, folate, MVI for chronic EtOH
 HYPOTENSION - ?cirrhotic vs infectious
   - Weaned off pressors yesterday, follow
   - Goal MAP >55
   - Stop antibiotics
HCT drop
 Appears to have been secondary to intraperitoneal bleed
   after paracentesis
   - Hct checks q8h
   - Transfusion goal >21 or if acute drop concerning for bleed
   - If need to transfuse, consider FFP if acute bleeding
   - IV vitamin K to try and improve coagulopathy
EtOH Abuse
   - Monitor for withdrawal
Renal Failure  - Poor UOP yesterday with FENA <1, improving now, ATN
   vs hepatorenal vs contrast nephropathy
   - Getting albumin 50gm today
   - If worsens, consider midodrine and/or octreotide
Hypoxia, volume overload
   - On 4L NC
   - Consider gentle diuresis in the next 12-24 hrs pending UOP
 On RISS
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  RISS
   Lines: - Plan for PICC, d/c femoral line after
   18 Gauge - [**2114-12-26**] 02:00 AM
   Multi Lumen - [**2114-12-26**] 02:32 AM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Will discuss with son today
   [**Name2 (NI) 66**] status: Full code
   Disposition : MICU for now
   Total time spent: 30 minutes

2114-12-28 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - D/cd Antibioitcs which were empiric for CAP, but afebrile with normal
   WBC
   - Receive IV Vitamin K x1
   - Started Cipro empirically per liver for mildly positive UA
   - Repeat Hct stable 26.3 < 24.2 < 25.6. Did not give FFP because Hct
   stable (which liver had advised earlier in the day)
   - Worsening hypoxemia around 1600. CXR appeared more volume overloaded.
   Received lasix 20 mg IV x3 with brisk response but continue to be more
   Hypoxic. Intubated around 10 pm with sats in 70s.
   - Hypotensive to SBP 70s-80s post intubation. Started levophed to limit
   fluid over-resusication
   - Rising lactate 4.4 > 5.5. Did not give fluids becuase appears
   overloaded and worsening oxygenation.
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsLibrium (Oral) (Chlordiazepoxide
   Hcl)
   Confusion/Delir
   Erythromycin Base
   Hives;
   Vasotec (Oral) (Enalapril Maleate)
   hypertension;
   Last dose of Antibiotics:
   Ceftriaxone - [**2114-12-27**] 12:05 AM
   Levofloxacin - [**2114-12-27**] 10:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-27**] 07:55 AM
   Lorazepam (Ativan) - [**2114-12-27**] 07:00 PM
   Morphine Sulfate - [**2114-12-27**] 08:15 PM
   Furosemide (Lasix) - [**2114-12-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-28**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 98 (94 - 111) bpm
   BP: 71/54(57) {71/40(44) - 141/87(94)} mmHg
   RR: 22 (22 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    Bladder pressure: 23 (23 - 23) mmHg
   Total In:
                                                                  1,666 mL
                                                                    327 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    426 mL
                                                                    327 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                  2,784 mL
                                                                    545 mL
   Urine:
                                                                  2,784 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,118 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 6,000 (6,000 - 6,000) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.39/37/65/20/-1
   Ve: 15.1 L/min
   PaO2 / FiO2: 65
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   94 K/uL
   8.7 g/dL
   156 mg/dL
   1.0 mg/dL
   20 mEq/L
   2.6 mEq/L
   7 mg/dL
   101 mEq/L
   139 mEq/L
   26.0 %
   11.0 K/uL
        [image002.jpg]
                            [**2114-12-26**]  05:20 PM
                            [**2114-12-26**]  10:08 PM
                            [**2114-12-27**]  02:21 AM
                            [**2114-12-27**]  04:15 AM
                            [**2114-12-27**]  12:54 PM
                            [**2114-12-27**]  07:33 PM
                            [**2114-12-27**]  08:25 PM
                             [**2114-12-28**]  12:54 AM
                             [**2114-12-28**]  03:57 AM
                             [**2114-12-28**]  06:31 AM
   WBC
   10.6
   11.0
   Hct
   27.8
   26.5
   28.0
   26.3
   24.2
   25.6
   26.0
   Plt
   127
   94
   Cr
   1.0
   1.0
   1.0
   TCO2
   22
   24
   23
   Glucose
   182
   156
   Other labs: PT / PTT / INR:25.8/48.9/2.5, ALT / AST:25/75, Alk Phos / T
   Bili:66/27.7, Amylase / Lipase:14/26, Differential-Neuts:86.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, D-dimer:2144 ng/mL,
   Fibrinogen:125 mg/dL, Lactic Acid:5.5 mmol/L, Albumin:2.8 g/dL, LDH:272
   IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: [**2114-12-27**]: AP single view of the chest obtained with patient in
   sitting
   semi-upright position is analyzed in direct comparison with the next
   preceding similar study obtained four hours earlier during the same
   day. No significant interval change can be identified. No pneumothorax
   has developed. The scattered bilateral patchy densities are still
   present and there is no evidence of gross pleural effusion as the
   lateral pleural sinuses remain free.
   Microbiology: [**12-26**] BCx x 2 NGTD
   [**12-26**] Pleural fluid culture NGTD
   Assessment and Plan
   49 yoF w/ a h/o hep C and ETOH related cirrhosis presents from [**Hospital 3296**]
   hospital with acute hepatic failure.
   # Acute hepatic failure: the patient has a history of cirrhosis (ETOH
   and hep C) and has had an acute decompensation.  Likely related to
   alcoholic hepatitis.  New hallucinations this morning.
   -per liver consult have sent hep C viral load and have stopped steroids
   -paracentesis negative for SBP
   -AFP normal, GGT 83, IgG , [**Last Name (un) 5861**] + 1:20
   -HCV VL < 43
   -trend LFTs- bili and INR increasing
   -d/w family (Son [**Doctor Last Name 4857**] today at 1 p.m. w/ social work
   -lactulose- titrate to 3 BMs daily, no BMs- will start lactulose enema
   and uptitrate lactulose, trial of dulcolax- if MS does not improve
   despite BMs w/ lactulose will start rifaximin
   -will obtain OSH previous EGD / [**Last Name (un) 236**] if any
   # Anemia: bleeding likely into intraperitoneal space.  Guaiac
   negative.
   -guaiac stools
   -type and screen
   -transfuse for hct < 21 or active bleeding, transfuse w/ Lasix when
   necessary
   -p.m. hct
   -vitamin k 10 mg IV x 1
   -if hct < 21 give FFP for elevated PTT and INR
   # ETOH abuse: thiamine, folate, MVI daily
   - No evidence of withdrawal, will stop CIWA
   # Hypotension: at this point seems to be related to possible infectious
   cause but more likely to significant end stage liver disease.  Off
   pressors since 3:30 a.m. [**12-27**].
   -MAP goal > 55
   -were treating pneumonia mainly on the basis of radiographic findings,
   but given new CT findings w/o any infiltrate and only volume overload
   can stop antibiotics at this point.  WBC normal, patient is afebrile
   and without cough.
   # ARF: FeNa < 1%.  Cr has stabilized, ddx includes pre-renal azotemia
   that has now started to improve, hepatorenal (although Cr not above 1.5
   and pt does have other reason to have renal failure such as shock, also
   has seemed to respond to albumin challenge).  Contrast nepropathy
   (although worsening renal function occurred too early for this) or ATN
   as pts w/ hepatic disease can have FeNa < 1%.  At this point will avoid
   further volume depletion, monitor urine output.
   -given additional 50g of albumin this a.m.
   -avoid volume depletion
   -d/w hepatology any further treatment such as octreotide/midodrine, at
   this point may not be useful given stabilization of cr
   # Hypoxia:  92% on 4L NC, likely related to volume overload.  At this
   point will tolerate hypoxia related to volume overload, will be able to
   diurese when creatinine has fully stabilized.  When diuresing will
   likely need to use albumin to help avoid further renal hypoperfusion.
   Plan to begin diuresing very gently if Cr stable by [**2114-12-28**].
   -IS for atelectasis
   # Hyponatremia:  possibly related to cirrhosis and intravascular volume
   depletion.
   -improved
   # DM: Insulin sliding scale.
   # FEN: calorie counts, allow pt to have regular diet, nutrition consult
   as pt likely will need dobhoff for feeding
   # PPX: PPI, INR elevated, bowel regimen
   # ACCESS: PIV
   # CODE:
   # CONTACT:  [**Name (NI) 4857**] (son) [**Telephone/Fax (5) 11269**] (this
   is [**Doctor Last Name 11270**] younger brother, if patient dies do not call the younger
   brother, [**Name (NI) 4857**] would like to be notified first so he can tell his
   younger brother).
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-12-26**] 02:32 AM
   PICC Line - [**2114-12-27**] 12:40 PM
   Arterial Line - [**2114-12-28**] 06:29 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2114-12-28 07:51:00 Physician Attending Progress Note
Chief Complaint: Liver failure
   HPI:
    See H&P for full details.  Briefly 49F w/acute on chronic hepatic
   failure.
   24 Hour Events:
 PICC LINE placed
Antibiotics stopped
 Intubated
 Hypotensive post intubation, increasing pressor requirement,
   increasing O2 requirements
   Allergies:
   Librium - Confusion/Delir
   Erythromycin - Hives
   Vasotec - hypertension
   Last dose of Antibiotics:
   Ciprofloxacin
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.32 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-27**] 07:55 AM
   Lorazepam (Ativan) - [**2114-12-27**] 07:00 PM
   Morphine Sulfate - [**2114-12-27**] 08:15 PM
   Furosemide (Lasix) - [**2114-12-27**] 10:00 PM
   Other medications:
   Potassium, MVI, folate, thiamine,
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-28**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 92 (92 - 111) bpm
   BP: 80/47(55) {71/40(44) - 141/87(94)} mmHg
   RR: 29 (22 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   Bladder pressure: 23 (23 - 23) mmHg
   Total In:
                                                                  1,666 mL
                                                                    365 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    426 mL
                                                                    365 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                  2,784 mL
                                                                    575 mL
   Urine:
                                                                  2,784 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,118 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 6,000 (6,000 - 6,000) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 28 cmH2O
   SpO2: 95%
   ABG: 7.41/35/98.[**Numeric Identifier 248**]/20/-1
   Ve: 15.1 L/min
   PaO2 / FiO2: 98
   Physical Examination
   General Appearance: Overweight / Obese, intubated, sedated
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: RRR, S1, S2
   Extremities/Peripheral Vascular: Cool, anasarcic
   Respiratory / Chest: Coarse, bronchial anteriorally
   Abdominal: Soft, Bowel sounds present, slightly distended
   Skin:  Icteric, no rashes
   Neurologic: Sedated
   Labs / Radiology
   8.7 g/dL
   94 K/uL
   156 mg/dL
   1.0 mg/dL
   20 mEq/L
   2.6 mEq/L
   7 mg/dL
   101 mEq/L
   139 mEq/L
   26.0 %
   11.0 K/uL
        [image002.jpg]
                            [**2114-12-26**]  10:08 PM
                            [**2114-12-27**]  02:21 AM
                            [**2114-12-27**]  04:15 AM
                            [**2114-12-27**]  12:54 PM
                            [**2114-12-27**]  07:33 PM
                            [**2114-12-27**]  08:25 PM
                             [**2114-12-28**]  12:54 AM
                             [**2114-12-28**]  03:57 AM
                             [**2114-12-28**]  06:31 AM
                             [**2114-12-28**]  07:26 AM
   WBC
   10.6
   11.0
   Hct
   26.5
   28.0
   26.3
   24.2
   25.6
   26.0
   Plt
   127
   94
   Cr
   1.0
   1.0
   TCO2
   22
   24
   23
   23
   Glucose
   182
   156
   Other labs: PT / PTT / INR:25.8/48.9/2.5, ALT / AST:25/75, Alk Phos / T
   Bili:66/27.7, Amylase / Lipase:14/26, Differential-Neuts:86.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, D-dimer:2144 ng/mL,
   Fibrinogen:125 mg/dL, Lactic Acid:5.5 mmol/L, Albumin:2.8 g/dL, LDH:272
   IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Anti-smooth muscle ab 1:20, Hep C viral Load 43, AFP 1.7
   Cultures
 Blood and peritoneal fluid NGTD
   CXR
progression of diffuse b/l fluffy ASD, no apparent effusions
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE
 ARDS (Unclear inciting factor
infection,
   no witnessed aspiration, no obvious acute pancreatitis) vs volume
   overload..  Plateaus elevated, bilateral infiltrates.
   - Hold diuresis for now while hypotensive
   - Keep PaO2 >60, try to increase PEEP if needed, consider esoph balloon
   placement to optimize given obese abd, wean fio2 as able
    Empiric broad antbx coverage, ruled out for flu.  Pan cxs repeated,
   TTE to assess cardiac fx
 HYPOTENSION
 Worse post-intubation.  Likely due to sedation and
   PEEP, but cannot exclude worsening infection/sepsis, although no fever
   or elevated WBC.  Did have hemo-peritoneum, although Hct stable.  Also
   had steroids stopped recently.
   - Broaden antibiotics, add vanco and cefepime
   - TTE, CvO2
   - Pan culture
   - Start stress dose hydrocortisone
   --trend lacate
 CIRRHOSIS OF LIVER, ALCOHOLIC
 Tbili and INR stable
   - Add rifaxamin
   - Continue lactulose
   - stress dose hydrocortisone as above
Anemia
 Stable yesterday, but given hypotension will trend q6h, space
   out if stable x2
 Renal Failure
 improved UOP, s/p two days of albumin, follow and
   hold on diuresis in light of pressor support
   ICU Care
   Nutrition: Start TFs
   Glycemic Control:  RISS
 transition to IV insulin protocol given plan
   to start steroids
   Lines:
   Cleanly placed femoral TLC - [**2114-12-26**] 02:32 AM
   PICC Line - [**2114-12-27**] 12:40 PM
   Arterial Line - [**2114-12-28**] 06:29 AM
   Prophylaxis:
   DVT: P-boots
   Stress ulcer: PPI
   VAP: Hob elevated, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : MICU
   Critically ill,
   Total time spent: 30 minutes

2114-12-29 07:59:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure
   HPI:
   See H&P for full details, in brief a 49F w/EtOH cirrhosis now
   w/respiratory failure and hypotension.
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Oxygenation requirement remains high, requiring increased PEEP.
   Remains on multiple vaospressors to maintain adequate MAP.
   Worsening lactic acidosis.
   Rapid influenza negative
   Allergies:
   Librium - Confusion/Delir
   Erythromycin - Hives;
   Vasotec - hypertension;
   Last dose of Antibiotics:
   Cefipime - [**2114-12-28**] 01:15 PM
   Vancomycin - [**2114-12-28**] 10:53 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Dopamine - 3 mcg/Kg/min
   Phenylephrine - 4 mcg/Kg/min
   Levophed
   Propofol
   Cisatricurium
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-28**] 08:00 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2114-12-29**] 05:47 AM
   Other medications:
   Lactulose, Rifaximin, Hydrocortisone
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-29**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 122 (85 - 126) bpm
   BP: 90/54(68) {86/45(57) - 105/64(79)} mmHg
   RR: 48 (20 - 48) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
   Bladder pressure: 15 (14 - 16) mmHg
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  4,777 mL
                                                                  3,580 mL
   PO:
   TF:
   IVF:
                                                                  4,117 mL
                                                                  2,980 mL
   Blood products:
                                                                    200 mL
                                                                    500 mL
   Total out:
                                                                  1,058 mL
                                                                    540 mL
   Urine:
                                                                    818 mL
                                                                     20 mL
   NG:
                                                                    240 mL
                                                                    120 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  3,719 mL
                                                                  3,040 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Set): 420 (400 - 420) mL
   Vt (Spontaneous): 350 (330 - 350) mL
   PS : 10 cmH2O
   RR (Set): 36
   RR (Spontaneous): 7
   PEEP: 25 cmH2O
   FiO2: 85%
   RSBI Deferred: PEEP > 10
   PIP: 43 cmH2O
   Plateau: 40 cmH2O
   SpO2: 96%
   ABG: 7.18/42/153/15/-12
   Ve: 12.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Overweight / Obese, intubated, sedated
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, MMM
   Cardiovascular: RR, tachy, S1, S2, no RMG
   Extremities/Peripheral Vascular: Warm, palpable radial and DP pulses
   bilat
   Respiratory / Chest: Bronchial at bases bilat
   Abdominal: Soft, Distended, decreased BS
   Skin:  NJaundice
   Neurologic: Sedated, paralysed, train of four
 [**3-31**]
   Labs / Radiology
   8.5 g/dL
   147 K/uL
   102 mg/dL
   0.9 mg/dL
   15 mEq/L
   4.7 mEq/L
   8 mg/dL
   100 mEq/L
   135 mEq/L
   26.1 %
   19.2 K/uL
        [image002.jpg]
                             [**2114-12-28**]  11:15 AM
                             [**2114-12-28**]  01:26 PM
                             [**2114-12-28**]  03:18 PM
                             [**2114-12-28**]  05:33 PM
                             [**2114-12-28**]  05:41 PM
                             [**2114-12-29**]  01:50 AM
                             [**2114-12-29**]  03:57 AM
                             [**2114-12-29**]  04:07 AM
                             [**2114-12-29**]  05:30 AM
                             [**2114-12-29**]  06:35 AM
   WBC
   19.2
   Hct
   25.6
   26.1
   Plt
   147
   Cr
   0.9
   TCO2
   21
   21
   21
   23
   19
   17
   14
   16
   Glucose
   102
   Other labs: PT / PTT / INR:33.9/66.9/3.4, ALT / AST:22/78, Alk Phos / T
   Bili:55/30.9, Amylase / Lipase:14/9, Differential-Neuts:85.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0 %, D-dimer:2144 ng/mL,
   Fibrinogen:127 mg/dL, Lactic Acid:9.6 mmol/L, Albumin:2.8 g/dL, LDH:395
   IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Cultures
 Blood, urine and sputum NGTD
   Assessment and Plan
   Gravely ill, with persistent respiratory failure, persistent severe
   hypotension, progressive academia and metabolic acidosis.
   RESPIRATORY FAILURE, ACUTE
 Meets ARDS criteria.  Etiology of
   infiltrates unclear, differential ARDS/PNA, DAH, cardiogenic edema.
   - Switch back to AC, 4-6cc/kg of IBW TV, will aim to keep PIPs~45
   pending new esophageal balloon numbers
   - Inhalers standing to minimize resistance
   - Consider bronchoscopy to r/o DAH, although tenuous respiratory status
   at this time.
   HYPOTENSION/SHOCK
 Per vigileo, minimal SVV, cardiac output ~[**5-2**],
   unclear if this is sufficient as improved with dopa.  Lactate is
   worsening, as is LDH, will re-evaluate for intra-abdominal process.
   Had been favoring a septic/distributive process, although cannot
   exclude a cardiac component.  Sepsis sources include SBP, bowel
   ischemia, urinary source, line-related infection, C. diff.
   - On Neo, vasopressin, levophed, dopa
   - Follow-up cultures, on broad spectrum abx
   - Consider Swan-Ganz placement
   - TTE, cycle biomarkers
   - Increase thiamine dose
   - RUQ US w/dopplers
   - Cdiff
   ACIDOSIS
 progressive, lactic acidosis.  Concern for evolving sepsis,
   although at risk for bowel ischemia.  Doubt thiamine deficiency (as
   received iv thiamine dose).  Monitor ABG, lactic acid.  HCO3 drip as
   needed to maintain pH >7.20.
   CIRRHOSIS OF LIVER, ALCOHOLIC
 Stable Tbili, INR up somewhat
   - On rifaxamin, lactulose
   - Appreciate hepatology input
   - Will need FFP prior to procedures
   RENAL FAILURE
 Decreased UOP since midnight, with elevated Cr.  Poor
   dialysis candidate at this time.
   - Follow UOP with volume challenge
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin Sc
   Lines:
   Multi Lumen - [**2114-12-26**] 02:32 AM
   PICC Line - [**2114-12-27**] 12:40 PM
   Arterial Line - [**2114-12-28**] 06:29 AM
   Prophylaxis:
   DVT: P-boots
   Stress ulcer: PPI
   VAP: Chlorhexidine, HOB to 30 degrees
   Comments:
   Communication:  Attempting to contact family to update on her condition
   Code status: Full code
   Disposition :  ICU
   Total time spent: 45 minutes

2114-12-29 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 49 yoF w/ a h/o hep C and ETOH related cirrhosis
   presents from [**Hospital 3296**] hospital with acute hepatic failure.
   24 Hour Events:
 BLOOD CULTURED - At [**2114-12-28**] 09:18 AM
   blood cultures drawn from femoral CVL
 SPUTUM CULTURE - At [**2114-12-28**] 10:00 AM
 BLOOD CULTURED - At [**2114-12-28**] 10:00 AM
   blood cultures drawn from PICC
 URINE CULTURE - At [**2114-12-28**] 10:20 AM
 ESOPHOGEAL BALLOON - At [**2114-12-28**] 02:30 PM
   -patient hypotensive requiring max dose levophed and vasopressin, as
   well as intermittent neosynephrine
   -hydrocortisone 50mg IV q6hrs started (serving dual purpose for alcohol
   hepatitis and as stress dose steroids)
   -given hypotension patient pan-cultured and started on broad spectrum
   antibiotics
   -respiratory viral screen negative
   -50g albumin given
   -CVO2 75%
   -Rifaximin started
   -lactulose uptitrated - pt had 1 BM, started dulcolax and senna
   -Esophageal balloon placed, PEEP uptitrated to 22
   -hct relatively stable
   -insulin drip initiated
   -Vigileo initiated, Stroke volume variation 13- 1L fluid challenege, no
   change in BP, over course of night SVV increased to 19.  Gave 1L IVF
   and 25g of albumin in 500cc.
   -attempted calling son x 2 overnight given worsening clinical status
   -Additional 500cc bolus NS given and 50g IV albumin ordered
   -ABG 7.14 / 39 / 140 on AC 400 x 30- breathing at a rate of 35 and w/
   tidal volumes of 500.  RR increased to 36, and pt breathing at 40 after
   this.  PaO2 140, PEEP 25, FiO2 100%.  2 amps of bicarb given.
   -patient dysynchronous w/ the ventilator despite 70 of propofol and
   150mcg of fentanyl.  Unresponsive.   Peak pressures increasing to low
   40s (previously mid / low 30s) and unable to control PCO2 / normalize
   pH- decision made to paralyze.
   Allergies:
   Librium (Oral) (Chlordiazepoxide Hcl)
   Confusion/Delir
   Erythromycin Base
   Hives;
   Vasotec (Oral) (Enalapril Maleate)
   hypertension;
   Last dose of Antibiotics:
   Ceftriaxone - [**2114-12-27**] 12:05 AM
   Levofloxacin - [**2114-12-27**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2114-12-28**] 10:15 AM
   Cefipime - [**2114-12-28**] 01:15 PM
   Vancomycin - [**2114-12-28**] 10:53 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Dopamine - 3 mcg/Kg/min
   Phenylephrine - 4 mcg/Kg/min
   Cisatracurium - 0.1 mg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-28**] 08:00 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2114-12-29**] 05:47 AM
   Cisatracurium - [**2114-12-29**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-29**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 122 (85 - 126) bpm
   BP: 90/54(68) {86/45(57) - 105/64(79)} mmHg
   RR: 48 (20 - 48) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    Bladder pressure: 15 (14 - 16) mmHg
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  4,777 mL
                                                                  3,588 mL
   PO:
   TF:
   IVF:
                                                                  4,117 mL
                                                                  2,988 mL
   Blood products:
                                                                    200 mL
                                                                    500 mL
   Total out:
                                                                  1,058 mL
                                                                    540 mL
   Urine:
                                                                    818 mL
                                                                     20 mL
   NG:
                                                                    240 mL
                                                                    120 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  3,719 mL
                                                                  3,051 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Set): 420 (400 - 420) mL
   Vt (Spontaneous): 350 (330 - 350) mL
   PS : 10 cmH2O
   RR (Set): 36
   RR (Spontaneous): 7
   PEEP: 25 cmH2O
   FiO2: 85%
   RSBI Deferred: PEEP > 10
   PIP: 43 cmH2O
   Plateau: 40 cmH2O
   SpO2: 96%
   ABG: 7.18/42/153/15/-12
   Ve: 12.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   8.5 g/dL
   102 mg/dL
   0.9 mg/dL
   15 mEq/L
   4.7 mEq/L
   8 mg/dL
   100 mEq/L
   135 mEq/L
   26.1 %
   19.2 K/uL
        [image002.jpg]
                             [**2114-12-28**]  11:15 AM
                             [**2114-12-28**]  01:26 PM
                             [**2114-12-28**]  03:18 PM
                             [**2114-12-28**]  05:33 PM
                             [**2114-12-28**]  05:41 PM
                             [**2114-12-29**]  01:50 AM
                             [**2114-12-29**]  03:57 AM
                             [**2114-12-29**]  04:07 AM
                             [**2114-12-29**]  05:30 AM
                             [**2114-12-29**]  06:35 AM
   WBC
   19.2
   Hct
   25.6
   26.1
   Plt
   147
   Cr
   0.9
   TCO2
   21
   21
   21
   23
   19
   17
   14
   16
   Glucose
   102
   Other labs: PT / PTT / INR:33.9/66.9/3.4, ALT / AST:22/78, Alk Phos / T
   Bili:55/30.9, Amylase / Lipase:14/9, Differential-Neuts:85.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0 %, D-dimer:2144 ng/mL,
   Fibrinogen:127 mg/dL, Lactic Acid:9.6 mmol/L, Albumin:2.8 g/dL, LDH:395
   IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   49 yoF w/ a h/o hep C and ETOH related cirrhosis presents from [**Hospital 3296**]
   hospital with acute hepatic failure.
   # Shock: at this point seems to be related to possible infectious
   cause, end stage liver disease, propofol.  Would also consider adverse
   reaction to FFP or IV vitamin K.  On levo, vaso.
   - MAP goal > 55
   - empiric vanc/zosyn/cipro
   - stress dose steroids
   - follow UOP, pulse pressure variation to assess intravascular volume
   - check ECHO
   - check TSH/FT4
   - wean propofol
   - check lytes, hct, ABG, lactate q6h
   # Respiratory failure/ARDS:  Worsening hypoxia on [**12-27**] and intubated
   in setting of receiving volume and severe liver disease.  Differential
   includes volume overload versus infection versus pulm hemorrhage vs
   TROLI in setting of transfusion though unlikely.  Would also consider
   PCP given IVDU history.
   - ARDSnet protocol with low tidal volumes
   - PaO2 > 60, SaO2 > 90
   - empiric antibx
   - r/o flu
   - may consider bronch
   - hold on diuresis for now but will consider pending creatinine trend,
   UOP
   # Acute hepatic failure: the patient has a history of cirrhosis (ETOH
   and hep C) and has had an acute decompensation.  Likely related to
   alcoholic hepatitis.  New hallucinations this morning.
   - restarted steroids with undetectable HCV viral load
   -paracentesis negative for SBP
   -AFP normal, GGT 83, IgG , [**Last Name (un) 5861**] + 1:20
   -HCV VL < 43
   -trend LFTs- bili and INR increasing
   -d/w family (Son [**Doctor Last Name 4857**] today at 1 p.m. w/ social work
   -lactulose and rifaxamin
   -will obtain OSH previous EGD / [**Last Name (un) 236**] if any
   # ARF: FeNa < 1%.  Cr has stabilized, ddx includes pre-renal azotemia
   that has now started to improve, hepatorenal (although Cr not above 1.5
   and pt does have other reason to have renal failure such as shock, also
   has seemed to respond to albumin challenge).  Contrast nepropathy
   (although worsening renal function occurred too early for this) or ATN
   as pts w/ hepatic disease can have FeNa < 1%.  At this point will avoid
   further volume depletion, monitor urine output.
   - follow UOP and trend creatinine
   - renally dose meds
   # Anemia: bleeding likely into intraperitoneal space.  Guaiac negative
   and hct stable.
   -guaiac stools
   -active type and screen
   -transfuse for hct < 21 or active bleeding, transfuse w/ Lasix when
   necessary
   -p.m. hct
   # ETOH abuse: No evidence of withdrawal
   - thiamine, folate, MVI daily
   # DM: Insulin sliding scale.
   # FEN: calorie counts, allow pt to have regular diet, nutrition consult
   as pt likely will need dobhoff for feeding
   # PPX: PPI, INR elevated, bowel regimen
   # ACCESS: PIV
   # CODE:
   # CONTACT:  [**Name (NI) 4857**] (son) [**Telephone/Fax (5) 11269**] (this
   is [**Doctor Last Name 11270**] younger brother, if patient dies do not call the younger
   brother, [**Name (NI) 4857**] would like to be notified first so he can tell his
   younger brother).
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-12-26**] 02:32 AM
   PICC Line - [**2114-12-27**] 12:40 PM
   Arterial Line - [**2114-12-28**] 06:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: